US08309598B2
Preparation of 4-(4H-benzo[d][1,3]oxathiin-2-yl)phenol
Following the same procedure as outlined in Example 1 step b), 4-hydroxybenzaldehyde (0.73 g, 5.95 mmol) and (2-mercaptophenyl)methanol (1 g, 7.14 mmol) in dichloromethane (30 ml) were treated with hydrogen chloride gas. After workup and chromatography, as in example 1 step b), the subtitle compound was obtained (0.91 g, 63%) as a white solid. 1H NMR (300 MHz, CDCl3, ppm) δ 5.04 (d, J=15 Hz, 1H); 5.10 (d, J=15 Hz, 1H); 5.19 (s, 1H); 6.02 (s, 1H); 6.76-6.81 (m, 2H); 6.96-7.03 (m, 1H); 7.04-7.19 (m, 3H); 7.35-7.42 (m, 2H): 13C NMR (75 MHz, CDCl3, ppm) δ 70.6; 82.8; 115.7; 125.1; 126.0, 127.5; 128.4; 129.9; 130.6; 133.1; 156.4; MS calculated for C14H12O2S+H 245 observed 245.

reactant | 4-hydroxybenzaldehyde | 5.95 mmol, 0.73 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (2-mercaptophenyl)methanol | 7.14 mmol, 1 g | SC1=C(C=CC=C1)CO | C7H8OS
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(4H-benzo[d][1,3]oxathiin-2-yl)phenol | S1C(OCC2=C1C=CC=C2)C2=CC=C(C=C2)O | C14H12O2S
